Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
shellfish derived
 
Attending: ___
 
Chief Complaint:
Dyspnea, hypertensive urgency
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HISTORY OF PRESENTING ILLNESS: ___ w/ hypertension (recently
self-discontinued medications), migraines who was referred from
PCP after being found to have hypertensive urgency.    

She presented to her PCP office to establish care today due to
progressive dyspnea. She has had mild, intermittent SOB for 6
months that has progressed over the last month to a point where 
a
10ft walk causes SOB. She does report progressive orthopnea over
a one month period, sleeps with 3 pillows. No PND. Of note, she
reports that she self-discontinued home ___
(amlodipine/losartan) ___ months ago.  Was diagnosed with
hypertension ___ years ago by PCP in ___ on routine 
visit.
She reports no further work up at that time for her 
hypertension.

She has been told she is anemic since a teen and advised to take
iron supplements. Denies any known family history of blood
disorders.  Menstrual periods are regular, last 7 days, change
tampon/pad ___ daily for first two days. No metromenorrhagia. 
No
black or bloody stools.   

She has a history of migraines for which she occasionally takes
fioricet. These occur once monthly.

Initially there was report to PCP of cough productive of clear
sputum with small blood tinged of late. Here, she states she has
had cough, worsened at night, no blood. No h/o asthma or GERD.
She has seasonal allergies that have been exacerbated by the 
move
from ___ and post nasal drip. 

At ___ office ___ VS notable for blood pressure of 184/112, and
heart rate 133. She received metoprolol 25 mg PO in the office
and was transferred to ___ ED.

 In the ED:  
 - VS: 97.8 191/130 94 20 100RA  
 - Labs: chem 7 unremarkable, trop <0.01, LFTs nl, proBNP 1297,
WBC 11.8 w/ 73.6%N, H/H 9.1/28.1 w/ MCV 57. D-dimer 295 (___)  

 - Imaging:  
 CXR  
 Moderate cardiomegaly and mild pulmonary vascular congestion.  
 - Received: losartan 50, amlodipine 5, Lasix IV 20, 40KCl 

On the floor she reports much improved dyspnea. She denies chest
pressure, headache, nausea, diaphoresis, lower extremity edema.
She is making good urine, urinating frequently after Lasix. 

She denies fever/chills, night sweats. She does report
intentional weight loss of ___ lbs over the past year with 
diet
and exercise. Patient is from the ___, has not traveled outside 
of
the country since she was born in ___. 
 
Past Medical History:
 PAST MEDICAL HISTORY:  
 1. CARDIAC RISK FACTORS  
 - Hypertension  
 2. CARDIAC HISTORY  
 - None  
 3. OTHER PAST MEDICAL HISTORY  
 - anemia  
 
 
Social History:
___
Family History:
 Father with stroke at ___ and ___ passed, HTN   
 Brother with diabetes
 
Physical Exam:
 VS: 98.2 PO 161 / 105 R Sitting 80 16 98 RA, repeat Bp 145/90 
at
2330. 
 GENERAL: Well developed, well nourished female in NAD. Oriented
x3. Mood, affect appropriate.  
 HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
 NECK: Supple. JVP of 8 cm. +HJR. 
 CARDIAC: PMI located in ___ intercostal space, midclavicular
line. RRR. Normal S1, S2. +S4. No thrills or lifts.  
 LUNGS: Respiration is unlabored with no accessory muscle use. 
No
crackles, wheezes or rhonchi.  
 ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
 EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
 SKIN: No significant skin lesions or rashes.  
 PULSES: Distal pulses palpable and symmetric.
 
Pertinent Results:
___ ECHO

Conclusions
The left atrial volume index is moderately increased. There is 
mild symmetric left ventricular hypertrophy with normal cavity 
size. There is mild global left ventricular hypokinesis (LVEF = 
50-55%). Tissue Doppler imaging suggests an increased left 
ventricular filling pressure (PCWP>18mmHg). Right ventricular 
chamber size and free wall motion are normal. The right 
ventricular free wall is hypertrophied. The diameters of aorta 
at the sinus, ascending and arch levels are normal. The aortic 
valve leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis. Trace aortic regurgitation is 
seen. The mitral valve leaflets are structurally normal. Mild 
(1+) mitral regurgitation is seen. The left ventricular inflow 
pattern suggests a restrictive filling abnormality, with 
elevated left atrial pressure. There is mild pulmonary artery 
systolic hypertension. There is no pericardial effusion. 

IMPRESSION: Prominent left ventricular thickening or hypertrophy 
with mild global left ventricular systolic dysfunction. RV 
hypertrophy with normal systolic function. Mild mitral 
regurgitation. Mild pulmonary hypertension.

Most of the echocardiographic findings may be explained by 
severe chronic hypertension, however given mild RVH, evidence of 
restrictive LV filling and at least moderate atrial enlargement, 
a search for inflitrative cardiomyopathy should be undertaken. 
If clinically indicated, a cardiac MR (___) is 
recommended. These findings were discussed with Dr. ___ by 
phone at ___ hours on the day of the study. 

___ 07:00PM URINE  HOURS-RANDOM
___ 07:00PM URINE  UCG-NEGATIVE
___ 07:00PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 07:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 04:15PM   estGFR-Using this
___:15PM   ALT(SGPT)-21 AST(SGOT)-23 ALK PHOS-69
___ 04:15PM   cTropnT-<0.01
___ 04:15PM   proBNP-1297*
___ 04:15PM   ALBUMIN-3.6
 
Brief Hospital Course:
SUMMARY 
Presented to PCP with SBP 190s in setting of self 
discontinuation of home BP meds >6 months prior and progressive 
dyspnea, orthopnea, here with elevated BNP 1297, volume overload 
on exam. EKG w/ non-specific ST changes, LVH; no trop peak. TSH 
2.25 at ___. Echo came back showing LVH and impaired diastolic 
relaxation of LV. Given 20mg IV Lasix and started on losartan 
and amlodipine with good effect.

#HYPERTENSIVE URGENCY: 
#DYSPNEA:
Likely d/t impaired diastolic relaxation of LV ___ HTN) and 
holding of antihypertensive medications. Received 20mg IV Lasix, 
and started on amlodipine 2.5mg PO daily and and losartan 50mg 
PO daily to good effect. Renin was added on to labs prior to 
losartan administration, to be followed by Dr. ___ with 
___ to be ordered as outpatient). Patient will require 
outpatient chemistry panel since newly starting on losartan.

#MICROCYTIC ANEMIA: 
MCV 57, Hgb 9.1. Unclear baseline, but reports history of anemia 
which was previously treated with iron. Suspect underlying 
hemoglobinopathy, possibly alpha thalassemia trait. Component of 
iron deficiency possible. 

===========================
TRANSITIONAL ISSUES
===========================
[ ] follow up chemistry in 1 week (to be done at outpatient 
cardiology appointment).
[ ] follow up renin (added onto ___ labs prior to losartan 
administration) and aldosterone (to be ordered) as outpatient.
[ ] consider further workup of secondary causes of hypertension 
if continues to be hypertensive.
[ ] consider outpatient stress test to evaluate BP during 
exercise.
[ ] consider Hgb electrophoresis as opt to determine etiology of 
chronic microcytic anemia with low retic index (concerning for 
alpha thalassemia trait; see above)

___ MEDS
-losartan 50mg PO daily
-amlodipine 2.5mg PO daily

#CHANGED MEDS: none
#DICONTINUED MEDS: none

Discharge weight: 75.6 kg(166.67 lb) 
Discharge creatinine: 1.0
Discharge BP: 145/96
Code status: full 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ferrous Sulfate 325 mg PO DAILY 
2. Acetaminophen-Caff-Butalbital ___ TAB PO Frequency is Unknown 


 
Discharge Medications:
1.  amLODIPine 2.5 mg PO DAILY 
RX *amlodipine 2.5 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
2.  Losartan Potassium 50 mg PO DAILY 
RX *losartan 50 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
3.  Acetaminophen-Caff-Butalbital ___ TAB PO Q4H:PRN as needed 
for migraine Duration: 1 Dose 
Do not exceed 6 tablets/day. Do not use more than once/month.  
4.  Ferrous Sulfate 325 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hypertensive urgency
Left ventricular hypertrophy
Impaired diastolic relaxation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at the ___ 
___!

WHY WAS I IN THE HOSPITAL?
==========================
You came to the hospital from your PCP's office because you had 
a one-month history of shortness of breath and a very high blood 
pressure.

WHAT HAPPENED IN THE HOSPITAL?
==============================
In the hospital, you got an EKG and some blood tests that showed 
that you did not have a heart attack. You received some 
medications to reduce your blood pressure, which made you feel 
better.

WHAT SHOULD I DO WHEN I GO HOME?
================================
It is vital that you take your medications as prescribed. You 
also need to follow up with the appointments listed below. You 
should also limit your salt intake (2 grams per day is a good 
goal). You should check your blood pressure at home and call 
your doctor if you have a blood pressure higher than 160 (top 
number).

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

 Your ___ Healthcare Team  

 
Followup Instructions:
___